US06319916B1
1(2,3-Dihydro-2-oxobenzoxazol-6-yl)-3-[4-(phenylmethyl)piperazin-1-yl]-1-propanone
Using 0.6 g of 3-chloro-1-(2,3-dihydro-2-oxobenzoxazol-6-yl)-1-propanone and 0.47 g of 1-(phenylmethyl)piperazine, 0.65 g of the title compound was obtained as colorless crystals, m.p. >300° C., in the same manner as in Example 6.

reactant | 3-chloro-1-(2,3-dihydro-2-oxobenzoxazol-6-yl)-1-propanone | 0.6 g | ClCCC(=O)C1=CC2=C(NC(O2)=O)C=C1 | C10H8ClNO3
reactant | 1-(phenylmethyl)piperazine | 0.47 g | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
product | 1(2,3-Dihydro-2-oxobenzoxazol-6-yl)-3-[4-(phenylmethyl)piperazin-1-yl]-1-propanone | 0.65 g | O=C1OC2=C(N1)C=CC(=C2)C(CCN2CCN(CC2)CC2=CC=CC=C2)=O | C21H23N3O3
